US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine (10 g) and triethylamine (4.18 ml) are dissolved in methylene chloride (100 mL) and thereto is added triphosgene (2.97 g) under ice-cooling. The reaction solution is stirred at the same temperature for 30 minutes and concentrated under reduced pressure. The resulting residue is dissolved in tetrahydrofuran (100 mL) and thereto are added benzyl alcohol (3.88 ml) and triethylamine (10.45 ml) at room temperature and the mixture is stirred overnight. The reaction solution is diluted with ethyl acetate and washed with a saturated aqueous sodium bicarbonate solution and a 1N-hydrochloric acid. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=97:3→9:1) to give benzyl (3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-carbamate (11.58 g). MS (m/z): 534/536 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amine | 10 g | FC(C=1C=C(CNC2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C13H8BrF6N3
reactant | triethylamine | 4.18 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 2.97 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | benzyl (3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-carbamate | 11.58 g | FC(C=1C=C(CN(C(OCC2=CC=CC=C2)=O)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C21H14BrF6N3O2
